* Subcircuit uA107
.subckt uA107 unconnected-_u1-pad1_ net-_q8-pad2_ net-_q1-pad2_ net-_q11-pad3_ unconnected-_u1-pad5_ net-_d2-pad1_ net-_q12-pad3_ unconnected-_u1-pad8_ 
.title kicad schematic
.include NPN.lib
.include PNP.lib
.include D.lib
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
d2 net-_d2-pad1_ net-_d1-pad1_ 1N4148
q20 net-_q11-pad3_ net-_d1-pad2_ net-_q20-pad3_ Q2N2907A
r12 net-_q20-pad3_ net-_d2-pad1_ 30k
r10 net-_q11-pad3_ net-_q13-pad2_ 50
q17 net-_d1-pad2_ net-_q14-pad3_ net-_q13-pad2_ Q2N2222
q14 net-_d1-pad2_ net-_c1-pad2_ net-_q14-pad3_ Q2N2222
q11 net-_q10-pad2_ net-_q10-pad2_ net-_q11-pad3_ Q2N2222
q13 net-_c1-pad2_ net-_q13-pad2_ net-_q11-pad3_ Q2N2222
r8 net-_q11-pad3_ net-_q14-pad3_ 50k
r5 net-_c1-pad2_ net-_q6-pad1_ 300
r6 net-_q10-pad2_ net-_q12-pad1_ 39k
c1 net-_c1-pad1_ net-_c1-pad2_ 30p
r1 net-_q11-pad3_ net-_q3-pad3_ 1k
r3 net-_q11-pad3_ net-_q7-pad3_ 1k
r4 net-_q11-pad3_ net-_q10-pad3_ 5k
r2 net-_q11-pad3_ net-_q3-pad2_ 50k
q7 net-_q6-pad1_ net-_q3-pad2_ net-_q7-pad3_ Q2N2222
q3 net-_q2-pad1_ net-_q3-pad2_ net-_q3-pad3_ Q2N2222
q10 net-_q10-pad1_ net-_q10-pad2_ net-_q10-pad3_ Q2N2222
q4 net-_q12-pad3_ net-_q2-pad1_ net-_q3-pad2_ Q2N2222
q1 net-_q1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
q2 net-_q2-pad1_ net-_q10-pad1_ net-_q1-pad3_ Q2N2907A
q8 net-_q1-pad1_ net-_q8-pad2_ net-_q6-pad3_ Q2N2222
q6 net-_q6-pad1_ net-_q10-pad1_ net-_q6-pad3_ Q2N2907A
q5 net-_q1-pad1_ net-_q1-pad1_ net-_q12-pad3_ Q2N2907A
q9 net-_q10-pad1_ net-_q1-pad1_ net-_q12-pad3_ Q2N2907A
q12 net-_q12-pad1_ net-_q12-pad1_ net-_q12-pad3_ Q2N2907A
r9 net-_d1-pad2_ net-_q16-pad2_ 7.5k
r7 net-_c1-pad1_ net-_q16-pad2_ 4.5k
q16 net-_c1-pad1_ net-_q16-pad2_ net-_d1-pad2_ Q2N2222
q18 net-_c1-pad1_ net-_q18-pad2_ net-_d2-pad1_ Q2N2222
q15 net-_c1-pad1_ net-_q12-pad1_ net-_q12-pad3_ Q2N2907A
r11 net-_q18-pad2_ net-_d2-pad1_ 25
q19 net-_q12-pad3_ net-_c1-pad1_ net-_q18-pad2_ Q2N2222
* Control Statements

.ends uA107