.title kicad schematic

r2 net-_b1-pad1_ gnd 100
r1 net-_r1-pad1_ net-_r1-pad2_ 1meg
* u1 net-_r1-pad2_ net-_r1-pad1_ net-_r3-pad2_ net-_r4-pad1_ net-_r6-pad1_ net-_r5-pad2_ port
c1 net-_b1-pad1_ gnd 2.24p
r3 gnd net-_r3-pad2_ 1g
b1 net-_b1-pad1_ gnd i=(v(in_plus)-v(in_minus))*v(vg)*0.2
r4 net-_r4-pad1_ gnd 1g
r5 gnd net-_r5-pad2_ 1meg
e1 net-_e1-pad1_ gnd net-_b1-pad1_ gnd 1
r6 net-_r6-pad1_ net-_e1-pad1_ 50
.tran 0.1e-09 2e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
