.title kicad schematic

.include 1N5771.lib
v1 net-_d1-pad1_ gnd  dc 0
d1 net-_d1-pad1_ net-_d1-pad2_ 1N5771
* u1 net-_d1-pad2_ net-_r1-pad2_ plot_v2
r1 gnd net-_r1-pad2_ 10
.dc v1 0e-00 1e-00 0.01e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(net-_d1-pad2_,net-_r1-pad2_)
.endc
.end
