* Subcircuit 74LS399
.subckt 74LS399 net-_u1-pad1_ net-_u20-pad6_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ unconnected-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ unconnected-_u1-pad16_ 
.title kicad schematic
* u3 net-_u1-pad3_ net-_u2-pad2_ net-_u12-pad1_ d_and
* u2 net-_u1-pad1_ net-_u2-pad2_ d_inverter
* u4 net-_u1-pad1_ net-_u1-pad4_ net-_u12-pad2_ d_and
* u20 net-_u16-pad2_ net-_u12-pad3_ net-_u11-pad2_ unconnected-_u20-pad4_ unconnected-_u20-pad5_ net-_u20-pad6_ unconnected-_u20-pad7_ d_srff
* u21 net-_u18-pad2_ net-_u13-pad3_ net-_u11-pad2_ unconnected-_u21-pad4_ unconnected-_u21-pad5_ net-_u1-pad7_ unconnected-_u21-pad7_ d_srff
* u12 net-_u12-pad1_ net-_u12-pad2_ net-_u12-pad3_ d_xor
* u16 net-_u12-pad3_ net-_u16-pad2_ d_inverter
* u6 net-_u1-pad1_ net-_u1-pad5_ net-_u13-pad2_ d_and
* u7 net-_u1-pad11_ net-_u2-pad2_ net-_u14-pad1_ d_and
* u8 net-_u1-pad1_ net-_u1-pad12_ net-_u14-pad2_ d_and
* u15 net-_u15-pad1_ net-_u10-pad3_ net-_u15-pad3_ d_xor
* u19 net-_u15-pad3_ net-_u19-pad2_ d_inverter
* u23 net-_u19-pad2_ net-_u15-pad3_ net-_u11-pad2_ unconnected-_u23-pad4_ unconnected-_u23-pad5_ net-_u1-pad15_ unconnected-_u23-pad7_ d_srff
* u11 net-_u1-pad9_ net-_u11-pad2_ d_inverter
* u9 net-_u1-pad14_ net-_u2-pad2_ net-_u15-pad1_ d_and
* u10 net-_u1-pad1_ net-_u1-pad13_ net-_u10-pad3_ d_and
* u22 net-_u17-pad2_ net-_u14-pad3_ net-_u11-pad2_ unconnected-_u22-pad4_ unconnected-_u22-pad5_ net-_u1-pad10_ unconnected-_u22-pad7_ d_srff
* u5 net-_u1-pad6_ net-_u2-pad2_ net-_u13-pad1_ d_and
* u18 net-_u13-pad3_ net-_u18-pad2_ d_inverter
* u17 net-_u14-pad3_ net-_u17-pad2_ d_inverter
* u14 net-_u14-pad1_ net-_u14-pad2_ net-_u14-pad3_ d_xor
* u13 net-_u13-pad1_ net-_u13-pad2_ net-_u13-pad3_ d_xor
a1 [net-_u1-pad3_ net-_u2-pad2_ ] net-_u12-pad1_ u3
a2 net-_u1-pad1_ net-_u2-pad2_ u2
a3 [net-_u1-pad1_ net-_u1-pad4_ ] net-_u12-pad2_ u4
a4 net-_u16-pad2_ net-_u12-pad3_ net-_u11-pad2_ unconnected-_u20-pad4_ unconnected-_u20-pad5_ net-_u20-pad6_ unconnected-_u20-pad7_ u20
a5 net-_u18-pad2_ net-_u13-pad3_ net-_u11-pad2_ unconnected-_u21-pad4_ unconnected-_u21-pad5_ net-_u1-pad7_ unconnected-_u21-pad7_ u21
a6 [net-_u12-pad1_ net-_u12-pad2_ ] net-_u12-pad3_ u12
a7 net-_u12-pad3_ net-_u16-pad2_ u16
a8 [net-_u1-pad1_ net-_u1-pad5_ ] net-_u13-pad2_ u6
a9 [net-_u1-pad11_ net-_u2-pad2_ ] net-_u14-pad1_ u7
a10 [net-_u1-pad1_ net-_u1-pad12_ ] net-_u14-pad2_ u8
a11 [net-_u15-pad1_ net-_u10-pad3_ ] net-_u15-pad3_ u15
a12 net-_u15-pad3_ net-_u19-pad2_ u19
a13 net-_u19-pad2_ net-_u15-pad3_ net-_u11-pad2_ unconnected-_u23-pad4_ unconnected-_u23-pad5_ net-_u1-pad15_ unconnected-_u23-pad7_ u23
a14 net-_u1-pad9_ net-_u11-pad2_ u11
a15 [net-_u1-pad14_ net-_u2-pad2_ ] net-_u15-pad1_ u9
a16 [net-_u1-pad1_ net-_u1-pad13_ ] net-_u10-pad3_ u10
a17 net-_u17-pad2_ net-_u14-pad3_ net-_u11-pad2_ unconnected-_u22-pad4_ unconnected-_u22-pad5_ net-_u1-pad10_ unconnected-_u22-pad7_ u22
a18 [net-_u1-pad6_ net-_u2-pad2_ ] net-_u13-pad1_ u5
a19 net-_u13-pad3_ net-_u18-pad2_ u18
a20 net-_u14-pad3_ net-_u17-pad2_ u17
a21 [net-_u14-pad1_ net-_u14-pad2_ ] net-_u14-pad3_ u14
a22 [net-_u13-pad1_ net-_u13-pad2_ ] net-_u13-pad3_ u13
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u3 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u4 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_srff, Ngspice Name: d_srff
.model u20 d_srff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 sr_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_srff, Ngspice Name: d_srff
.model u21 d_srff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 sr_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u12 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u16 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u6 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u7 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u8 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u15 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u19 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_srff, Ngspice Name: d_srff
.model u23 d_srff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 sr_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u11 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u9 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u10 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_srff, Ngspice Name: d_srff
.model u22 d_srff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 sr_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u5 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u18 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u17 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u14 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u13 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends 74LS399